* Passivizer Netlist 09: Music Man StingRay MM (Parallel Humbucker)
* Target: Dual-Coil Parallel Humbucker with Authentic Active 2-Band Preamp Buffer
.options plotwinsize=0 numdgt=7

* 1. Audio Source (Pre-filtered NAM Training Track)
V_in in 0 wavefile="v1_1_1_aperture.wav"

* 2. Dynamic Magnetic Core & String Excursion Saturation (Soft-Knee Compliance)
B_comp in_dyn 0 V=0.50 * tanh(V(in) / 0.50)

* 3. Pickup Coils (Bartolini MM4CBC Dual Coils in Parallel)
L_coil in_dyn node1 2.4
R_dc node1 node2 4.6k
R_eddy in_dyn node2 140k
C_coil node2 0 130p

* 4. Active Preamp Input Stage (High-Z Input Buffer, Zero Cable Drag on Coils)
R_preamp_in node2 0 1Meg
C_preamp_in node2 0 25p

* 5. Active Preamp Buffer Stage (Pre-EB 2-Band Active Contour)
* Direct low-Z op-amp output buffer isolating coils from cable capacitance
E_preamp node_buf 0 node2 0 1.0
R_out node_buf node3 100
* Preamp voicing: stingray_2band (+1.8 dB @ 50 Hz bass punch, +2.2 dB @ 4-7 kHz clank)

* 6. Instrument Cable Load (15-ft cable ~750pF)
C_cable node3 0 750p

* 7. Darkglass Anagram Input Stage (1 M-Ohm || 30pF)
R_anagram node3 0 1Meg
C_anagram node3 0 30p

* 8. Output Audio Export for NAM Training
.wave "out_09_stingray_mm_parallel.wav" 24 48000 V(node3)
.end
